US07465726B2
4-[4-(6-Oxo-1-phenyl-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (75 mg, 0.22 mmol) and 5-amino-1-phenyl-1H-pyridin-2-one (50 mg, 0.27 mmol) in 1-butanol (3 mL) was heated at 120° C. overnight, LC-MS showed the desired product together with some de-Boc product. After the mixture was cooled to rt, it was diluted with methylene chloride (3 mL), then N,N-diisopropylethylamine (0.1 mL, 0.6 mmol) and di-tert-butyldicarbonate (49 mg, 0.22 mmol) were added. The resulting mixture was stirred at rt for 30 min. The mixture was diluted with EtOAc (30 mL), then washed with brine (20 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized with EtOAc/Hexane to give the title compound as a green solid. LC-MS (ES, Pos.): 485 [MH+], and 1H NMR (DMSO-d6, 400 MHz): δ 1.43 (s, 9H), 2.50 (m, 2H), 3.56 (m, 2H), 4.04 (m, 2H), 6.39 (s, 1H), 6.56 (d, J=9.7 Hz, 1H), 6.66 (s, 1H), 7.39-7.57 (m, 5H), 7.81 (dd, J=9.7, 2.7 Hz, 1H), 8.17 (s, 1H), 8.34 (d, J=2.7 Hz, 1H), 9.17 (s, 1H), 11.94 (br s, 1H).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 5-amino-1-phenyl-1H-pyridin-2-one | 0.27 mmol, 50 mg | NC=1C=CC(N(C1)C1=CC=CC=C1)=O | C11H10N2O
solvent | 1-butanol | 3 mL | C(CCC)O | C4H10O
product | 4-[4-(6-Oxo-1-phenyl-1,6-dihydropyridin-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CN(C(C=C2)=O)C2=CC=CC=C2)N1 | C27H28N6O3
